US07456164B2
Intermediate 36: Methyl 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carboxylate
A suspension of 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carboxylic acid (23.5 g, 0.0636 mol) in methanol (235 ml, 10 vol) was stirred and cooled to 0 to −5° C. under nitrogen. Thionyl chloride (9.3 ml, 0.1272 mol, 0.40 vol) was charged dropwise over 20 minutes, maintaining the temperature −5 to +5° C. The resulting slurry was then heated and stirred at reflux under nitrogen for 16 h after which time LC analysis showed 1.4% by area of acid remaining. The solution was evaporated to dryness in vacuo at 40° C. to give a brown sludge. The sludge was dissolved in ethyl acetate (118 ml, 5 vol) and water (235 ml, 10 vol) and the layers separated. The aqueous layer was washed with ethyl acetate (118 ml, 5 vol) and basified to pH 11 with saturated aqueous potassium carbonate (118 ml, 5 vol). The product was extracted into dichloromethane (3×118 ml, 3×5 vol) and the combined extracts dried over magnesium sulfate (23 g, 1 wt) and concentrated in vacuo at 40° C. to yield title compound (21.7 g, 98% from the nitrile) as a cream solid.

reactant | 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carboxylic acid | 0.0636 mol, 23.5 g | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C(=O)O | C19H27NO4
reactant | Thionyl chloride | 0.1272 mol, 9.3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 235 ml | CO | CH4O
solvent | ethyl acetate | 118 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carboxylate | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C(=O)OC | C20H29NO4
